US04886517
Preparation of 4-acetamido-2'-methyl-4'-[N,N-bis(β-hydroxyethyl)amino]phenylazobenzene
0.2 mol (30 g) of p-acetamidoaniline, followed by 34 ml of concentrated hydrochloric acid, are added to 100 ml of water containing 300 g of crushed ice. A solution of 15.2 g of sodium nitrite in 30 ml of water is added to the suspension. The solution obtained in this way is added, after being filtered, to an ice-cold solution of 0.2 mol (39 g) of 3-methyl-N,N-bis(β-hydroxyethyl)aniline in 160 g of water containing 34 ml of concentrated hydrochloric acid. After 30 minutes stirring and making alkaline with a 20% ammonia solution, the product is obtained in the form of crystals.

reactant | p-acetamidoaniline | 0.2 mol, 30 g | C(C)(=O)NC1=CC=C(N)C=C1 | C8H10N2O
reactant | hydrochloric acid | 34 ml | Cl | ClH
reactant | sodium nitrite | 15.2 g | N(=O)[O-].[Na+]
reactant | 3-methyl-N,N-bis(β-hydroxyethyl)aniline | 0.2 mol, 39 g | CC=1C=C(N(CCO)CCO)C=CC1 | C11H17NO2
reactant | ammonia | N | H3N
solvent | water | 30 ml | O | H2O
solvent | water | 34 ml, 160 g | O | H2O
solvent | water | 100 ml, 300 g | O | H2O
product | 4-acetamido-2'-methyl-4'-[N,N-bis(β-hydroxyethyl)amino]phenylazobenzene | C(C)(=O)NC1=CC=C(C=C1)C=1C(=C(C=CC1N(CCO)CCO)N=NC1=CC=CC=C1)C | C25H28N4O3
